US04791124
A mixture of 2-bromo-1-(5-methylthien-2-yl)ethanone (30.0 g of the aforesaid dark liquid) and hexamethylene tetramine (21.0 g, 0.15 mole) in chloroform (500 ml) was stirred at room temperature for three days. The solvent was removed from the reaction mixture by evaporation under reduced pressure, leaving a dark residue. This residue was stirred in warm methylene chloride. Diethyl ether was added slowly to the mixture, causing a solid to precipitate. After being cooled for several hours, the solid was collected by filtration. The filter cake was rinsed with diethyl ether and was dried under reduced pressure yielding 43.1 g of 1-[2-oxo-2-(5-methylthienyl)ethyl]-3,5,7-triaza-1-azoniatricyclo-[3,3,1,13,7 ]decane bromide (mp 141° C. dec).

reactant | 2-bromo-1-(5-methylthien-2-yl)ethanone | BrCC(=O)C=1SC(=CC1)C | C7H7BrOS
reactant | hexamethylene tetramine | 0.15 mole, 21.0 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[2-oxo-2-(5-methylthienyl)ethyl]-3,5,7-triaza-1-azoniatricyclo-[3,3,1,13,7 ]decane bromide | 43.1 g | [Br-].O=C(C[N+]12CN3CN(CN(C1)C3)C2)C=2SC(=CC2)C | InChI=1S/C13H19N4OS.BrH/c1-11-2-3-13(19-11)12(18)4-17-8-14-5-15(9-17)7-16(6-14)10-17;/h2-3H,4-10H2,1H3;1H/q+1;/p-1
